US07598391B2
{[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid
{[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid tert-butyl ester (14 mg, 0.03 mmol) was dissolved in methylene chloride. Hydrogen chloride (100 μL, 4N in dioxane) was added and the reaction was stirred at ambient temperature until no ester could be detected. The reaction was diluted with diethyl ether and concentrated. The resulting residue was dissolved in a minimum amount of methylene chloride, precipitated with diethyl ether and decanted. This was repeated to afford 9 mg (69%) of the desired compound. HPLC-MS: m/z 395 (M+1).

reactant | {[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid tert-butyl ester | 0.03 mmol, 14 mg | C(C)(C)(C)OC(CNCC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C23H38N4O3S
reactant | Hydrogen chloride | 4N, 100 μL | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | {[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid | 9 mg, 69% | C1(CCCCC1)N(C(NC=1SC(=CN1)CNCC(=O)O)=O)C1CCCCC1 | C19H30N4O3S
